US04075001
In the manner of Example XI, part D, 7 g of 5-amino-3-(butylmethylamino)-4-cyanoisothiazole, 4.1 ml (4 g) of methyl isocyanate, and a catalytic amount of dibutyltin diacetate in 50 ml of tetrahydrofuran were allowed to react. The volatile materials were removed under reduced pressure and the residue was crystallized from 35 ml of 70:30 diethyl ether:hexane to yield solid material, mp 102° (decomposes). This material was recrystallized from 70 ml of 40:60 diethylether:hexane to yield 4.1 g of 1-methyl-3-(3-(butylmethylamino)-4-cyano-5-isothiazolyl)urea mp 169°-170°. The nmr spectrum was consistent with the assigned structure.

reactant | 5-amino-3-(butylmethylamino)-4-cyanoisothiazole | 7 g | NC1=C(C(=NS1)N(C)CCCC)C#N | C9H14N4S
reactant | methyl isocyanate | 4.1 ml, 4 g | CN=C=O | C2H3NO
reactant | dibutyltin diacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(CCC)[Sn+2]CCCC
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-methyl-3-(3-(butylmethylamino)-4-cyano-5-isothiazolyl)urea | 4.1 g | CNC(=O)NC1=C(C(=NS1)N(C)CCCC)C#N | C11H17N5OS
